US07517873B2
To a solution of 4.904 g (0.020 mole) of (rac)-3-amino-2-methyl-propanoic acid ethyl ester trifluoroacetate in 30 mL of dimethylsulfoxide was added 4.08 g (0.020 mole) of iodobenzene, 0.46 g (0.004 mole) of L-proline, 0.38 g (0.002 mole) of copper (I) iodide and 19.57 g (0.060 mole) of cesium carbonate. Argon was bubbled through the solution for 15 minutes. The mixture was then heated at 80 degrees for 16 hours. After cooling, the mixture was partitioned between ethyl acetate (2×300 mL) and water (3×300 mL). The organic layers were washed with 300 mL of brine, combined, dried over anhydrous magnesium sulfate, filtered, and concentrated. Purification of the residue by silica gel chromatography, eluting with dichloromethane-hexanes (80:20) and then dichloromethane gave 1.70 g of (rac)-2-methyl-3-phenylamino-propionic acid ethyl ester as colorless oil that darkened on standing.

reactant | (rac)-3-amino-2-methyl-propanoic acid ethyl ester trifluoroacetate | 0.020 mole, 4.904 g | FC(C(=O)O)(F)F.C(C)OC(C(CN)C)=O
reactant | iodobenzene | 0.020 mole, 4.08 g | IC1=CC=CC=C1 | C6H5I
reactant | L-proline | 0.004 mole, 0.46 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | cesium carbonate | 0.060 mole, 19.57 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.002 mole, 0.38 g | [Cu]I
product | (rac)-2-methyl-3-phenylamino-propionic acid ethyl ester | 1.70 g | C(C)OC(C(CNC1=CC=CC=C1)C)=O | C12H17NO2
